US04420615
B. Methyl N-(3-cyano-4,6-dimethyl-2-pyridyl)-N-(2-dimethylaminoethyl)carbamate
To a solution of N,N-dimethyl-N'-(3-cyano-4,6-dimethyl-2-pyridyl)-1,2-diaminoethane (13.5 g, 62 mmol) in dry benzene (150 ml) is added methyl chloroformate (7.1 ml, 92 mmol) and then the resulting mixture is refluxed for 11/2 hours. This mixture is evaporated to dryness and the residue dissolved in water, washed with methylene chloride, made basic with sodium carbonate and the product extracted into methylene chloride. Upon evaporation of the solvent there is obtained 16.6 g of oily title B product.

reactant | N,N-dimethyl-N'-(3-cyano-4,6-dimethyl-2-pyridyl)-1,2-diaminoethane | 62 mmol, 13.5 g | CN(CCNC1=NC(=CC(=C1C#N)C)C)C | C12H18N4
reactant | methyl chloroformate | 92 mmol, 7.1 ml | ClC(=O)OC | C2H3ClO2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | Methyl N-(3-cyano-4,6-dimethyl-2-pyridyl)-N-(2-dimethylaminoethyl)carbamate | C(#N)C=1C(=NC(=CC1C)C)N(C(OC)=O)CCN(C)C | C14H20N4O2
